US04410354
Embodiment XVIII--2-Ethyl-1,8-dioxaspiro[4.5]decane-2-methanol
To a stirred solution of 16.52 g of tetrahydro-4-(3-methylenepentyl)-2H-pyran-4-ol in 100 ml of methylene chloride under nitrogen was added portionwise 15.32 g of peracetic acid (with 0.40 g of anhydrous sodium acetate added). The reaction mixture was refluxed for 1 hour, allowed to set for 4 hours, diluted with 150 ml of methylene chloride, washed successively with water, twice with 25% potassium carbonate, and saturated sodium chloride, dried and filtered. The resulting solution was stripped to yield 12.42 g of the desired product as a pale yellow liquid.

reactant | tetrahydro-4-(3-methylenepentyl)-2H-pyran-4-ol | 16.52 g | C=C(CCC1(CCOCC1)O)CC | C11H20O2
reactant | peracetic acid | 15.32 g | C(C)(=O)OO | C2H4O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-Ethyl-1,8-dioxaspiro[4.5]decane-2-methanol | 12.42 g | C(C)C1(OC2(CC1)CCOCC2)CO | C11H20O3
